US05523404
Methyl 3-amino-2-chloro-2-butenoate
50 g (0.33 mol) of methyl 2-chloroacetoacetate are reacted with 64 g (0.83 mol) of ammonium acetate in 100 ml of methanol and worked up in analogy to Example 2. Yield: 63.9% [GC]

reactant | methyl 2-chloroacetoacetate | 0.33 mol, 50 g | ClC(C(=O)OC)C(=O)C | C5H7ClO3
reactant | ammonium acetate | 0.83 mol, 64 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 3-amino-2-chloro-2-butenoate | Yield: 63.9% | NC(=C(C(=O)OC)Cl)C | C5H8ClNO2
